US07220877B2
Under a atmosphere of nitrogen, azodicarboxylic dipiperidide (0.91 g, 3.62 mmol) was added at 0–5° C. to a stirred solution of tributylphosphine (0.89 mL, 3.62 mmol), (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (0.60 g, 2.53 mmol) and (E)(E) 3-(4′-{3-[(tert-butyidimethylsilanyl)-methoxy]-1-methylpropenyl}-biphenyl-4-yl)-but-2-en-1-ol (1.02 g, 2.41 mmol) in dry THF (15 ml). The mixture was warmed to room temperature, and stirred for 18 h. The resulting mixture was diluted with water and ethyl acetate, the aqueous layer collected and further extracted with ethyl acetate. The organic layers were combined, washed with brine, dried (MgSO4) and evaporated. The crude product was then purified by column chromatography on silica using heptane/ethyl acetate (4:1) as eluent to give 1.18 g (76%) of (E)(E)(S) 3-{4-[3-(4′-{3-[(tert-butyldimethylsilanyl)-methoxy]-1-methylpropenyl}-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester.

reactant | tributylphosphine | 3.62 mmol, 0.89 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 2.53 mmol, 0.60 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
reactant | (E)(E) 3-(4′-{3-[(tert-butyidimethylsilanyl)-methoxy]-1-methylpropenyl}-biphenyl-4-yl)-but-2-en-1-ol | 2.41 mmol, 1.02 g | [Si](C)(C)(C(C)(C)C)COC/C=C(\C)/C1=CC=C(C=C1)C1=CC=C(C=C1)/C(=C/CO)/C | C27H38O2Si
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)(E)(S) 3-{4-[3-(4′-{3-[(tert-butyldimethylsilanyl)-methoxy]-1-methylpropenyl}-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester | 1.18 g, 76% | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C(/C)\C1=CC=C(C=C1)C1=CC=C(C=C1)\C(=C\COC[Si](C)(C)C(C)(C)C)\C)OCC)=O | C40H54O5Si
